US05994368
to amixture of 8-[3-[N-(3-carboxypropionyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (139 mg), 3-amino-N-methylbenzamide (51.3 mg) and anhydrous dichloromethane (4 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (71.5 mg) and 1-hydroxybenzotriazole (54.6 mg). The mixture was stirred for 12 hours at ambient temperature ans washed with water. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purifed by preparative thin-layer chromatography (chloroform-methanol) followed by pulverization with diethyl ether to give 8-[2,6-dichloro-3-[N-[3-[N-(3-methylcarbamoylphenyl)carbamoyl]propionyl]-N-methylamino]benzyloxy]-2-methylquinoline (103 mg) as an amorphous powder.

reactant | 8-[3-[N-(3-carboxypropionyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 139 mg | C(=O)(O)CCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C22H20Cl2N2O4
reactant | 3-amino-N-methylbenzamide | 51.3 mg | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 71.5 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 54.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 8-[2,6-dichloro-3-[N-[3-[N-(3-methylcarbamoylphenyl)carbamoyl]propionyl]-N-methylamino]benzyloxy]-2-methylquinoline | 103 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CCC(NC1=CC(=CC=C1)C(NC)=O)=O)=O)Cl | C30H28Cl2N4O4
